US06875788B2
Cycloheptylidene(3-thienyl)acetonitrile
The expected intermediate is obtained in the manner described in General Protocol A starting from 3-thienylacetonitrile and cycloheptanone.

reactant | 3-thienylacetonitrile | S1C=C(C=C1)CC#N | C6H5NS
reactant | cycloheptanone | C1(CCCCCC1)=O | C7H12O
product | Cycloheptylidene(3-thienyl)acetonitrile | C1(CCCCCC1)=C(C#N)C1=CSC=C1 | C13H15NS
